US05098465
2-(4,6-Dimethoxypyrimidin-2-yl)pentanoic acid
A mixture of 2.2 g (8 mmol) ethyl 2-(4,6-dimethoxypyrimidin-2-yl)pentanoate in 20 ml methanol and 3 ml 5N caustic soda was stirred overnight at room temperature. The mixture was concentrated and the residue dissolved in 10 ml water, extracted with 50 ml ethyl acetate and the aqueous phase acidified with 2N hydrochloric acid until it was pH 5. The aqueous phase was extracted three times with ether, the combined phases were dried over magnesium sulphate and concentrated.

reactant | ethyl 2-(4,6-dimethoxypyrimidin-2-yl)pentanoate | 8 mmol, 2.2 g | COC1=NC(=NC(=C1)OC)C(C(=O)OCC)CCC | C13H20N2O4
solvent | methanol | 20 ml | CO | CH4O
solvent | caustic soda | 5N, 3 ml | [OH-].[Na+]
product | 2-(4,6-Dimethoxypyrimidin-2-yl)pentanoic acid | COC1=NC(=NC(=C1)OC)C(C(=O)O)CCC | C11H16N2O4
